US08859559B2
A mixture of 4-pentynoic acid (2.00 g; 20.4 mmol) and 4-methylmorpholine (2.24 ml; 20.4 mmol) in DCM (20 ml) is cooled to −5° C. Isobutyl chloroformate (2.68 ml; 20.4 mmol) is added, followed by DMF (10 ml). The resulting mixture is added in portions to a solution of diethanolamine (2.25 g; 21.4 mmol) in DCM (10 ml). The resulting mixture is stirred overnight and evaporated. The residue is purified by silica gel column chromatography (gradient: DCM/methanol 100:0→82:18 to yield N,N-bis(2-hydroxyethyl)pent-4-ynamide.

reactant | 4-pentynoic acid | 20.4 mmol, 2.00 g | C(CCC#C)(=O)O | C5H6O2
reactant | 4-methylmorpholine | 20.4 mmol, 2.24 ml | CN1CCOCC1 | C5H11NO
reactant | Isobutyl chloroformate | 20.4 mmol, 2.68 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diethanolamine | 21.4 mmol, 2.25 g | N(CCO)CCO | C4H11NO2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N,N-bis(2-hydroxyethyl)pent-4-ynamide | OCCN(C(CCC#C)=O)CCO | C9H15NO3
